US09328138B2
Step 1: benzyl(cyclopropylsulfonyl)carbamate
To a solution of cyclopropanesulfonamide (6.51 g, triethylamine (40 mL) and DMAP (0.656 g) in DCM (150 mL) was slowly added benzyl chloroformate (12 mL). The mixture was stirred at room temperature for 18 hours. The mixture was washed with 1 N HCl. The aqueous layer (pH 1) was extracted with EtOAc (×2). The combined organics were washed with brine, dried over anhydrous MgSO4 and concentrated. The resulting residue was purified by flash chromatography (ISCO, 0-10% methanol in dichloromethane) to afford the desired product (7.8 g). 1H NMR (400 MHz, CDCl3): δ (ppm) 7.56-7.44 (m, 1H), 7.38 (s, 5H), 5.22 (s, 2H), 2.92-2.84 (m, 1H), 1.40-1.35 (m, 2H), 1.12-1.06 (m, 2H).

reactant | cyclopropanesulfonamide | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | triethylamine | 40 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 12 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
catalyst | DMAP | 0.656 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | benzyl(cyclopropylsulfonyl)carbamate | 7.8 g | C(C1=CC=CC=C1)OC(NS(=O)(=O)C1CC1)=O | C11H13NO4S
